US05538840
Under nitrogen, 32.4 g (128 mmol) of 11-bromo-1-undecanol are added at 80° C. to a solution of 20.0 g (54 mmol) of 2-phenyl-4,6-bis(2,4-dihydroxyphenyl)-1,3,5-triazine, 6.6 g (109 mmol) of potassium hydroxide and 150 ml of diglyne. The mixture is heated at 100° C. for 14 hours and filtered while hot, and the filtrate is cooled to 0° C. The solid which crystallizes therefrom is filtered off, pressed and dried for 24 hours under reduced pressure (60 mmHg, 60° C.), giving 27.6 g (72% yield) of 2-phenyl-4,6-bis[2-hydroxy-4-(11-hydroxyundecyloxy)phenyl]-1,3,5-triazine as a pale yellow solid of melting point 126°-135° C. The 1H-NMR spectrum (CDCl3, 300 MHz) is in agreement with the desired product.

reactant | 11-bromo-1-undecanol | 128 mmol, 32.4 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | 2-phenyl-4,6-bis(2,4-dihydroxyphenyl)-1,3,5-triazine | 54 mmol, 20.0 g | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)O)O)C1=C(C=C(C=C1)O)O | C21H15N3O4
reactant | potassium hydroxide | 109 mmol, 6.6 g | [OH-].[K+]
product | 2-phenyl-4,6-bis[2-hydroxy-4-(11-hydroxyundecyloxy)phenyl]-1,3,5-triazine | 27.6 g, 72% yield | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=C(C=C(C=C1)OCCCCCCCCCCCO)O)C1=C(C=C(C=C1)OCCCCCCCCCCCO)O | C43H59N3O6
